US05037990
e) 3-[2-(Benzyloxycarbonylamino)-ethyl]-phenoxyacetic acid (1H-tetrazol-5-yl)-amide
To a solution at 40° C. of 13.1 g. (39.8 mMol) 3-[2-(benzyloxycarbonylamino)-ethyl]-phenoxyacetic acid and 130 ml. anhydrous tetrahydrofuran are added 6.48 g. (39.9 mMol) carbonyl-bis-imidazole, followed by stirring for 30 minutes at 40° C. 3.39 g. (39.9 mMol) anhydrous 5-aminotetrazole are then added thereto and allowed to react for 18 hours at 60° C. After distilling off the tetrahydrofuran, there is obtained a colourless oil which is stirred with 130 ml. 2N hydrochloric acid, crystallisation thereby taking place. The crystals are filtered off with suction, triturated with dilute hydrochloric acid, again filtered off with suction and washed with water. After drying in a vacuum at 80° C. over potassium hydroxide and recrystallising from nitromethane, there are obtained 12.7 g. (50.5% of theory) of the desired product; m.p. 164°-167° C.

reactant | 3-[2-(benzyloxycarbonylamino)-ethyl]-phenoxyacetic acid | 39.8 mMol | C(C1=CC=CC=C1)OC(=O)NCCC=1C=C(OCC(=O)O)C=CC1 | C18H19NO5
reactant | carbonyl-bis-imidazole | 39.9 mMol | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 5-aminotetrazole | 39.9 mMol | NC1=NN=NN1 | CH3N5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[2-(Benzyloxycarbonylamino)-ethyl]-phenoxyacetic acid (1H-tetrazol-5-yl)-amide | N1N=NN=C1NC(COC1=CC(=CC=C1)CCNC(=O)OCC1=CC=CC=C1)=O | C19H20N6O4
